US05047492
About 1250 ml of 10 percent aqueous tetramethylammonium hydroxide solution were added to 82.2 g of precipitated silicic acid. After the mixture had been stirred at 25° C. for 16 hours and at 50° C. for 8 hours, a clear solution was obtained. The solution was concentrated to two-thirds of its original volume and the tetramethylammonium silicate contained therein was crystallized at 4° C. About 359.5 g of tetramethylammonium silicate which still contained water were obtained.

reactant | silicic acid | 82.2 g | [Si](O)(O)(O)O | H4O4Si
reactant | tetramethylammonium hydroxide | 1250 ml | [OH-].C[N+](C)(C)C
product | tetramethylammonium silicate | 359.5 g | [Si]([O-])([O-])([O-])[O-].C[N+](C)(C)C.C[N+](C)(C)C.C[N+](C)(C)C.C[N+](C)(C)C | InChI=1S/4C4H12N.O4Si/c5*1-5(2,3)4/h4*1-4H3;/q4*+1;-4
